US06699995B1
4-(3,4-Dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol
Methyl 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionate (0.67 g) was dissolved in toluene (5 mL). To the obtained solution was added dropwise a mixture of a 70% solution (0.81 g) of sodium bis(2-methoxyethoxy)aluminum hydride in toluene and toluene (2 mL) at 0° C. and the mixture was stirred at 0° C. for 1 h. To the reaction mixture was carefully added a 10% aqueous solution (50 mL) of potassium sodium (+)-tartrate tetrahydrate and the mixture was stirred at room temperature for 1 h. The precipitated crystals were collected by filtration, washed successively with a 10% aqueous solution of potassium sodium (+)-tartrate tetrahydrate, pure water and isopropyl ether, and air-dried to give the title compound as crystals (0.46 g, 74%). Recrystallization from acetone-hexane gave pale-yellow prism crystals. melting point: 140-141° C.

reactant | Methyl 4-(3,4-dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionate | 0.67 g | ClC=1C=C(C=CC1Cl)C=1N=C(OC1CCC(=O)OC)N1C(=NC=C1)C | C17H15Cl2N3O3
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | potassium sodium (+)-tartrate tetrahydrate | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3,4-Dichlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol | 0.46 g, 74% | ClC=1C=C(C=CC1Cl)C=1N=C(OC1CCCO)N1C(=NC=C1)C | C16H15Cl2N3O2
